US06809090B2
13.1) N′-(4-methylphenyl)-1,2-benzenediamine
The reduction of the nitro function of N-(4-methylphenyl)-2-nitroaniline (Synthesis (1990) 430) is carried out in the presence of Pd/C in ethanol, under the conditions described previously for intermediate 2.2. A violet product is obtained in a semi-oil semi-crystal form with a yield of 90%.

reactant | N-(4-methylphenyl)-2-nitroaniline | CC1=CC=C(C=C1)NC1=C(C=CC=C1)[N+](=O)[O-] | C13H12N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | N′-(4-methylphenyl)-1,2-benzenediamine | yield of 90% | CC1=CC=C(C=C1)NC=1C(=CC=CC1)N | C13H14N2
